US09447024B1
The U.S. Pat. No. 8,796,488 describes a process for Lacosamide (Scheme-6) using a similar reaction, where the resumes N-acetyl-D,L-serine methyl ester is heated at 65° C. with 5 equivalents of benzylamine to obtain N-acetyl-D,L-serine benzylamide in 84% yield. At such a temperature, significant racemization should take place. The chiral purity of the product was of no consequence because the authors used racemic starting material. The authors achieved the required chiral purity through resolution using 2-(S)-chloro mandelic acid, an expensive resolving agent. Furthermore, the process is complicated by the fact that the acetyl group is removed to free the amino group to facilitate resolution with a chiral acid. The required acetyl group is again introduced at the final step.

reactant | Lacosamide | CC(=O)N[C@H](COC)C(=O)NCC=1C=CC=CC1 | C13H18N2O3
reactant | N-acetyl-D,L-serine methyl ester | COC(C(NC(C)=O)CO)=O | C6H11NO4
reactant | benzylamine | 5 equivalents | C(C1=CC=CC=C1)N | C7H9N
product | N-acetyl-D,L-serine benzylamide | 84% yield | C(C1=CC=CC=C1)NC(C(NC(C)=O)CO)=O | C12H16N2O3
